US06900215B2
2′,6′-Difluorobiphenyl-2-carbonitrile was lithiated and reacted with trimethyl borate as described in Example 31 to give 2′-cyano-2,6-difluorobiphenyl-3-boronic acid as a white crystalline solid.

reactant | 2′,6′-Difluorobiphenyl-2-carbonitrile | FC1=C(C(=CC=C1)F)C=1C(=CC=CC1)C#N | C13H7F2N
reactant | trimethyl borate | B(OC)(OC)OC | C3H9BO3
product | 2′-cyano-2,6-difluorobiphenyl-3-boronic acid | C(#N)C1=C(C=CC=C1)C1=C(C(=CC=C1F)B(O)O)F | C13H8BF2NO2
